Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[CH:33]1[CH2:32][O:31][C:29]([CH3:28])([CH3:30])[O:35][CH2:34]1.[OH:1][c:2]1[c:3]([CH2:4][CH3:5])[cH:6][c:7](-[c:8]2[n:9][o:10][c:11](-[c:12]3[cH:13][c:14]([CH3:15])[n:16][c:17]([N:18]([CH2:21][CH3:22])[CH2:19][CH3:20])[cH:23]3)[n:24]2)[cH:25][c:26]1[CH3:27]>>[O:1]([c:2]1[c:3]([CH2:4][CH3:5])[cH:6][c:7](-[c:8]2[n:9][o:10][c:11](-[c:12]3[cH:13][c:14]([CH3:15])[n:16][c:17]([N:18]([CH2:19][CH3:20])[CH2:21][CH3:22])[cH:23]3)[n:24]2)[cH:25][c:26]1[CH3:27])[CH:33]1[CH2:32][O:31][C:29]([CH3:28])([CH3:30])[O:35][CH2:34]1,[OH:1][c:2]1[c:3]([CH2:4][CH3:5])[cH:6][c:7](-[c:8]2[n:9][o:10][c:11](-[c:12]3[cH:13][c:14]([CH3:15])[n:16][c:17]([N:18]([CH2:19][CH3:20])[CH2:21][CH3:22])[cH:23]3)[n:24]2)[cH:25][c:26]1[CH3:27].[OH:101][CH:33]1[CH2:32][O:31][C:29]([CH3:28])([CH3:30])[O:35][CH2:34]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[O:1]([c:2]1[c:3]([CH2:4][CH3:5])[cH:6][c:7](-[c:8]2[n:9][o:10][c:11](-[c:12]3[cH:13][c:14]([CH3:15])[n:16][c:17]([N:18]([CH2:19][CH3:20])[CH2:21][CH3:22])[cH:23]3)[n:24]2)[cH:25][c:26]1[CH3:27])[CH:33]1[CH2:32][O:31][C:29]([CH3:28])([CH3:30])[O:35][CH2:34]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 1.1), ([1.1, 1], 1), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (1, 33), ([33, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][C:3](=O)[C:4]([F:5])([F:6])[F:7])[c:8]1[cH:14][cH:13][c:11]([Br:12])[cH:10][cH:9]1.[NH2:15][NH2:16]>>[c:1]1(-[c:8]2[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]2)[cH:2][c:3]([C:4]([F:5])([F:6])[F:7])[n:15][nH:16]1,[O:101]=[C:1]([CH2:2][C:3](=[O:102])[C:4]([F:5])([F:6])[F:7])[c:8]1[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]1.[NH2:15][NH2:16].[H+:301].[H+:302]>>[c:1]1(-[c:8]2[cH:9][cH:10][c:11]([Br:12])[cH:13][cH:14]2)[cH:2][c:3]([C:4]([F:5])([F:6])[F:7])[n:15][nH:16]1,Knorr_pyrazole_synthesis,"[(15, 3), ([3, 102], 301), (102, 15.1), ([15.1, 15], 15), (15, [15, 3]), ([3, 102], 102), (16, 1), ([1, 101], 302), (101, 16.1), ([16.1, 16], 16), (16, [16, 1]), ([1, 101], 101), ([2.1, 2], [2, 1]), ([1, 16], 16)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][c:4]([CH2:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[c:12]2[c:13]([cH:14]1)[NH:15][C:16](=[O:17])[CH:18]([CH3:19])[O:20]2.[CH3:21][NH:22][C:23](=[O:24])[c:25]1[cH:26][cH:27][c:28]([N:29]2[CH2:30][CH2:31][NH:32][CH2:33][CH2:34]2)[cH:35][cH:36]1>>[CH2:1]([c:2]1[cH:3][c:4]([CH2:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[c:12]2[c:13]([cH:14]1)[NH:15][C:16](=[O:17])[CH:18]([CH3:19])[O:20]2)[N:32]1[CH2:31][CH2:30][N:29]([c:28]2[cH:27][cH:26][c:25]([C:23]([NH:22][CH3:21])=[O:24])[cH:36][cH:35]2)[CH2:34][CH2:33]1,[O:101]=[CH:1][c:2]1[cH:3][c:4]([CH2:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[c:12]2[c:13]([cH:14]1)[NH:15][C:16](=[O:17])[CH:18]([CH3:19])[O:20]2.[CH3:21][NH:22][C:23](=[O:24])[c:25]1[cH:26][cH:27][c:28]([N:29]2[CH2:30][CH2:31][NH:32][CH2:33][CH2:34]2)[cH:35][cH:36]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][c:4]([CH2:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[c:12]2[c:13]([cH:14]1)[NH:15][C:16](=[O:17])[CH:18]([CH3:19])[O:20]2)[N:32]1[CH2:31][CH2:30][N:29]([c:28]2[cH:27][cH:26][c:25]([C:23]([NH:22][CH3:21])=[O:24])[cH:36][cH:35]2)[CH2:34][CH2:33]1,reductive_amination,"[(32, 1), ([1, 101], 301), (101, 32.1), ([32.1, 32], 32), (32, [32, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 32], 32)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][N:4]1[CH2:15][CH2:14][N:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:6][CH2:5]1.[O:24]=[C:25]1[NH:26][C:27](=[O:28])[C:29]([c:36]2[cH:41][cH:40][cH:39][cH:38][cH:37]2)([c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)[NH:42]1>>[CH2:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][N:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15]1)[N:26]1[C:25](=[O:24])[NH:42][C:29]([c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)([c:36]2[cH:37][cH:38][cH:39][cH:40][cH:41]2)[C:27]1=[O:28],[O:24]=[C:25]1[NH:26][C:27](=[O:28])[C:29]([c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)([c:36]2[cH:37][cH:38][cH:39][cH:40][cH:41]2)[NH:42]1.[Cl:101][CH2:1][CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][N:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15]1>>[CH2:1]([CH2:2][CH2:3][N:4]1[CH2:5][CH2:6][N:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15]1)[N:26]1[C:25](=[O:24])[NH:42][C:29]([c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)([c:36]2[cH:37][cH:38][cH:39][cH:40][cH:41]2)[C:27]1=[O:28],SN2,"[(26, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
